US07534797B2
3-(3-Chloro-2-fluoro-phenylamino)-3-phenyl-acrylic acid ethyl ester
2-Fluoro-3-chloroaniline (7.55 mL, 0.0687 mole), ethyl benzoylacetate (13.2 g, 0.0687 mole) and p-toluenesulfonic acid (1.18 g, 0.007 mole) were combined in a 250 mL round bottom flask with toluene (60 mL) and a magnetic stir-bar. The reaction was stirred at reflux with a Dean-Stark water trap. Reflux was stopped after 3 h. The product mixture was allowed to cool, and was then passed through a short pad of silica gel with methylene chloride, and concentrated in vacuo. Standing under high vacuum for 1 h afforded an oil. The oil was stirred in 100 mL of hexanes overnight, then suction filtered to remove a solid impurity. The filtrate was concentrated, and put on high vacuum to afford an oil. The oil was chromatographed with hexanes, ethyl acetate (8:1), and put under high vacuum for 1 h to afford the title compound as a yellow oil; 1H NMR (CDCl3, 400 MHz) δ 1.30-1.34 (t, 3H, J=7.1 Hz), 4.20-4.25 (Q, 2H, J=7.1 Hz), 5.13 (s, 1H), 6.19-6.23 (t, 1H), 6.60-6.65 (t of d, 1H, J=1.7 & J=8.2), 6.88-6.92 (t of d, 1H, J=1.5 & J=6.6), 7.29-7.37 (m, 5H), 10.21 (bs, 1H); MS(ES+): 319.99 (100) [MH+], 322.02 (30) [(M+2)H+].

reactant | 2-Fluoro-3-chloroaniline | 0.0687 mole, 7.55 mL | FC1=C(N)C=CC=C1Cl | C6H5ClFN
reactant | ethyl benzoylacetate | 0.0687 mole, 13.2 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | p-toluenesulfonic acid | 0.007 mole, 1.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(3-Chloro-2-fluoro-phenylamino)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)NC1=C(C(=CC=C1)Cl)F)=O | C17H15ClFNO2
